US06124488
A double-walled reactor having a volume of 1 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel was charged with 600 g of clear 50% strength NaOH (7.5 mol), followed by cooling to 8° C. Then 20 g of Aliquat 336 (49 mmol) and 33 g (0.5 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred turbulently for a few minutes. Then 256 g of cyclohexyl bromide (1.57 mol) were added, cooling with water taking place at the same time. After 1 hour's stirring at room temperature the reaction mixture was warmed to 70° C., followed by a further 2 hours' stirring. After 2 hours, stirring was stopped and phase separation was awaited. The water layer was drawn off and 600 g (7.5 mol) of fresh 50% strength NaOH were added, followed by a further 4 hours' stirring at 70° C. GC was used to show that at that instant 10% of di- and 90% of tri(cyclohexyl)cyclopentadiene were present in the mixture. The product was distilled at 0.04 mbar and 130° C. After distillation, 87.4 g of tri(cyclohexyl)cyclopentadiene were obtained. Characterization took place with the aid of GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | 7.5 mol | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | cyclohexyl bromide | 1.57 mol, 256 g | C1(CCCCC1)Br | C6H11Br
catalyst | Aliquat 336 | 49 mmol, 20 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | tri(cyclohexyl)cyclopentadiene | 87.4 g | C1(CCCCC1)C=1C(=C(CC1)C1CCCCC1)C1CCCCC1 | C23H36
